US05716944
To a mixture of sesamol (8.28 g), ethyl orthoformate (53.58 g) and benzene (120 ml), powdered anhydrous aluminum chloride (12.0 g) was added, followed by stirring at room temperature for 1 hour. The mixture was then poured into 5% hydrochloric acid (180 ml) and stirred at room temperature for 30 minutes. After the insoluble substance was filtered off, the filtrate was extracted with ether. The ether layer was washed with water and dried (MgSO4), after which the solvent was evaporated off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:8, v/v) to yield 2-hydroxy-4,5-methylenedioxybenzaldehyde (3.48 g, 35%) having a melting point of 128°-129° C.

reactant | sesamol | 8.28 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | ethyl orthoformate | 53.58 g | C(OCC)([O-])[O-]
reactant | aluminum chloride | 12.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 180 ml | Cl | ClH
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 2-hydroxy-4,5-methylenedioxybenzaldehyde | 3.48 g, 35% | OC1=C(C=O)C=C2C(=C1)OCO2 | C8H6O4
